US08729263B2
6-(4-Bromo-2-fluoro-6-methoxyphenyl)-N-methyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine (0.81 g, 1.80 mmol) and pyridine hydrochloride (1.65 g, 14.3 mmol) were heated to 190° C. for 45 min in a Biotage® Initiator microwave reactor. The reaction mixture was diluted in MeOH/DMSO, and purified via reverse phase preparative HPLC (5 to 95% acetonitrile in water, 0.1% trifluoroacetic acid as modifier). The appropriate fractions containing product were free based by catch and release using SiliaBond Propylsulphonic Acid® (4 eq, methanol as eluent and a 2 N ammonia solution in MeOH to release the material). The solvent was concentrated in vacuo to afford 5-bromo-3-fluoro-2-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)phenol as a beige solid (0.19 g, 23%). [M+H]: 439.2; 1H NMR (400 MHz, MeOD) δ 7.96 (d, J=10.0 Hz, 1H), 7.27 (d, J=10.0 Hz, 1H), 6.97 (t, J=2.0 Hz, 1H), 6.89 (dd, J=11.5, 2.0 Hz, 1H), 5.07-5.35 (m, 1H), 3.02 (s, 3H), 1.73 (dd, J=12.5, 3.5 Hz, 2H), 1.62 (t, J=12.5 Hz, 2H), 1.41 (s, 6H), 1.27 (s, 6H).

reactant | 6-(4-Bromo-2-fluoro-6-methoxyphenyl)-N-methyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine | 1.80 mmol, 0.81 g | BrC1=CC(=C(C(=C1)OC)C1=CC=C(N=N1)N(C1CC(NC(C1)(C)C)(C)C)C)F | C21H28BrFN4O
reactant | pyridine hydrochloride | 14.3 mmol, 1.65 g | Cl.N1=CC=CC=C1
solvent | MeOH DMSO | CO.CS(=O)C
product | 5-bromo-3-fluoro-2-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)phenol | 0.19 g, 23% | BrC=1C=C(C(=C(C1)O)C=1N=NC(=CC1)N(C1CC(NC(C1)(C)C)(C)C)C)F | C20H26BrFN4O
